US05426103
3-(N-[[trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecan-10-yl]-carbonyl]-amino)-pyridine (0.040 g, 0.11 mmol) is dissolved in ethanol (1.0 mL). An aqueous solution of nitrogen-degassed 1N sodium hydroxide (0.33 mL, 0.33 mmol) is added, and the reaction is stirred for 90 minutes. The reaction is quenched with 1N hydrochloric acid (0.33 mL, 0.33 mmol), and the solvent is evaporated. The residue is partitioned between ethyl acetate and water, and the aqueous layer is extracted several times with ethyl acetate. The combined organic layers are dried (MgSO4), and the solvent is evaporated. The residue is dissolved in methylene chloride (5.0 mL), and anhydrous hydrochloric acid gas is bubbled through the reaction for 5 minutes. The solvent is evaporated to give 3-(N-[[trans 3-mercaptomethyl-2-oxo-1-azacylodecan-10-yl]-carbonyl]-amino)-pyridine hydrochloride, MS: M+1=322.

reactant | 3-(N-[[trans 3-(acetylthiomethyl)-2-oxo-1-azacyclodecan-10-yl]-carbonyl]-amino)-pyridine | 0.11 mmol, 0.040 g | C(C)(=O)SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)NC=1C=NC=CC1)=O | C18H25N3O3S
reactant | sodium hydroxide | 0.33 mmol, 1N, 0.33 mL | [OH-].[Na+]
reactant | hydrochloric acid | 0.33 mmol, 1N, 0.33 mL | Cl | ClH
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 3-(N-[[trans 3-mercaptomethyl-2-oxo-1-azacylodecan-10-yl]-carbonyl]-amino)-pyridine hydrochloride | Cl.SC[C@@H]1C(N[C@H](CCCCCC1)C(=O)NC=1C=NC=CC1)=O | InChI=1S/C16H23N3O2S.ClH/c20-15-12(11-22)6-3-1-2-4-8-14(19-15)16(21)18-13-7-5-9-17-10-13;/h5,7,9-10,12,14,22H,1-4,6,8,11H2,(H,18,21)(H,19,20);1H/t12-,14-;/m1./s1
